US05747517
Preparation of 5-[[4-[(naphth-2-yl)methoxy]phenyl]methylene]-2-thioxo-4-thiazolidinone
Under a nitrogen atmosphere in a round bottom flask 4-[(naphth-2-yl)methoxy]benzaldehyde (5.24 g, 20 mmol) was dissolved in 100 ml of acetic acid. To this solution was added sodium acetate (5.74 g, 70 mmol) and rhodanine (2.66 g, 20 mmol). The reaction mixture was raised to the reflux temperature and maintained at this temperature. The progress of the reaction was monitored by thin layer chomratography.

reactant | 4-[(naphth-2-yl)methoxy]benzaldehyde | 20 mmol, 5.24 g | C1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=O)C=C1 | C18H14O2
reactant | sodium acetate | 70 mmol, 5.74 g | C(C)(=O)[O-].[Na+]
reactant | rhodanine | 20 mmol, 2.66 g | S1C(=S)NC(=O)C1 | C3H3NOS2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 5-[[4-[(naphth-2-yl)methoxy]phenyl]methylene]-2-thioxo-4-thiazolidinone | C1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)C=C1C(NC(S1)=S)=O | C21H15NO2S2
